data/oMe_Silver.jsonl
{"reaction_id": "NG-010_1-C_2-c2ccccc2_3-c2cnccc2","name": "Bamford-Stevens Reaction","level": "medium","reactants_smiles": ["C(=NNS(=O)(=O)c1ccc(C)cc1)(C(C)(c2ccccc2))(c2cnccc2)"],"products_smiles": ["C(=C(C)(c2ccccc2))C(c2cnccc2)"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=N[N-]S(=O)(=O)c1ccc(C)cc1)(C(C)(c2ccccc2))(c2cnccc2)","rationale": "Base abstracts a proton alpha to the hydrazone nitrogen, stabilized by resonance into the adjacent imine, making the nitrogen anion more nucleophilic and primed for tosylate elimination."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[N+]=[N-])(C(C)(c2ccccc2))(c2cnccc2)","rationale": "The negatively charged nitrogen facilitates expulsion of the tosylate, a good leaving group due to resonance stabilization by the sulfonyl group, forming a diazo species."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C](C(C)(c2ccccc2))(c2cnccc2)","rationale": "The diazo compound thermally or base-promotedly loses N₂ gas, a highly stable leaving group, generating an electron-deficient carbene intermediate."},{"step": 4,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=C(C)(c2ccccc2))C(c2cnccc2)","rationale": "The carbene undergoes a 1,2-shift of C or c2ccccc2 to stabilize the electron-deficient center, forming the more thermodynamically stable alkene via rearrangement."}],"description": "Under basic conditions, the Bamford–Stevens reaction proceeds via deprotonation of the tosylhydrazone, generating an anion that eliminates the tosylate. This forms a diazo intermediate, which loses nitrogen to yield a carbene. A 1,2-shift then rearranges the carbene to the alkene product."}
{"reaction_id": "NR-223_1-C1CCCCC1_2-c1ccc([N+](=O)[O-])cc1_3-c1ccc(C(F)(F)F)cc1_4-c1ccccc1","level": "medium","name": "Pinacol Rearrangement","reactants_smiles": ["C(C1CCCCC1)(c1ccc([N+](=O)[O-])cc1)(O)C(O)(c1ccc(C(F)(F)F)cc1)(c1ccccc1)"],"products_smiles": ["C(=O)(C1CCCCC1)C(c1ccc([N+](=O)[O-])cc1)(c1ccc(C(F)(F)F)cc1)(c1ccccc1)"],"conditions": "H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(c1ccc([N+](=O)[O-])cc1)(O)C([OH2+])(c1ccc(C(F)(F)F)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Protonation of the hydroxyl group increases its leaving group ability by converting OH into water, aided by the acidic medium."},{"step": 2,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(C1CCCCC1)(c1ccc([N+](=O)[O-])cc1)(O)[C+](c1ccc(C(F)(F)F)cc1)(c1ccccc1)","step_weight": 0,"rationale": "Water departs as a neutral, stable molecule, generating a carbocation stabilized by adjacent oxygen through inductive and resonance effects."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(=O)(C1CCCCC1)C(c1ccc([N+](=O)[O-])cc1)(c1ccc(C(F)(F)F)cc1)(c1ccccc1)","step_weight": 0,"rationale": "A 1,2-alkyl shift occurs to form a more stable carbocation adjacent to oxygen, enabling resonance stabilization and subsequent ketone formation."}],"description": "Under acidic aqueous conditions, the diol undergoes protonation to activate one hydroxyl group, followed by loss of water to generate a carbocation. A 1,2-alkyl shift then stabilizes the cation via resonance with the adjacent oxygen, yielding the rearranged ketone."}
